US08981084B2
Methyl 4-(5-(2,2,2-trifluoroacetyl)thiophen-2-yl)butanoate (250 mg, 0.89 mmol) was dissolved in THF-H2O (15 MI, 2:1 v/v) and cooled to 0° C. LiOH.H2O (35 mg, 0.89 mmol) was added and the reaction mixture was allowed to warm up to room temperature and stirred for 1.5 h. Solvent was removed under reduced pressure and the aqueous layer was washed with EtOAc. The Ph of the aqueous layer was adjusted to 2-3 using 1.5N HCl. The product was extracted with EtOAc. The combined extracts were dried over anhydrous sodium sulfate and concentrated under reduced pressure to get 4-(5-(2,2,2-trifluoroacetyl)thiophen-2-yl)butanoic acid (220 mg, crude), which was carried through without further purification. 1H NMR (300 MHz, DMSO-d6) δ 12.13 (br s, 1H), 8.00-7.98 (m, 1H), 7.21-7.19 (d, J=3.9 Hz, 1H), 2.98-2.93 (t, J=7.7 Hz, 2H), 2.31-2.26 (m, 2H), 1.93-1.83 (m, 2H). MS (ESI) m/z: Calculated for C10H9F3O3S: 266.02. found: 264.8 (M−H)−

reactant | Methyl 4-(5-(2,2,2-trifluoroacetyl)thiophen-2-yl)butanoate | 0.89 mmol, 250 mg | FC(C(=O)C1=CC=C(S1)CCCC(=O)OC)(F)F | C11H11F3O3S
reactant | LiOH.H2O | 0.89 mmol, 35 mg | O[Li].O
solvent | THF H2O | C1CCOC1.O
product | 4-(5-(2,2,2-trifluoroacetyl)thiophen-2-yl)butanoic acid | 220 mg | FC(C(=O)C1=CC=C(S1)CCCC(=O)O)(F)F | C10H9F3O3S
